* LVS netlist generated with ICnet by 'dlavila' on Tue Jan 21 2014 at 01:18:34

*
* Component pathname : $SC_filter/default.group/logic.views/nand_X4
*
.subckt nand_X4  O A B Vdd Vss

        M3 N$75 B Vss Vss n_18_mm w=1u l=0.18u m=1
        M4 O A Vdd Vdd p_18_mm w=3u l=0.18u m=1
        M1 O B Vdd Vdd p_18_mm w=3u l=0.18u m=1
        M2 O A N$75 Vss n_18_mm w=1u l=0.18u m=1
.ends nand_X4

*
* Component pathname : $SC_filter/default.group/logic.views/inv_X8
*
.subckt inv_X8  O I Vdd Vss

        M1 O I Vss Vss n_18_mm w=1u l=0.18u m=2
        M2 O I Vdd Vdd p_18_mm w=3u l=0.18u m=2
.ends inv_X8

*
* Component pathname : $SC_filter/default.group/logic.views/inv_X4
*
.subckt inv_X4  O I Vdd Vss

        M1 O I Vss Vss n_18_mm w=1u l=0.18u m=1
        M2 O I Vdd Vdd p_18_mm w=3u l=0.18u m=1
.ends inv_X4

*
* Component pathname : $SC_filter/default.group/logic.views/inv_X2
*
.subckt inv_X2  O I Vdd Vss

        M1 O I Vss Vss n_18_mm w=0.5u l=0.18u m=1
        M2 O I Vdd Vdd p_18_mm w=1.5u l=0.18u m=1
.ends inv_X2

*
* Component pathname : $SC_filter/default.group/logic.views/PHASE_GEN
*
.subckt PHASE_GEN  phi1 phi1e phi2 phi2e clk Vdd Vss

        X_NAND_X43 N$345 N$317 N$344 Vdd Vss nand_X4
        X_NAND_X42 N$341 N$314 N$320 Vdd Vss nand_X4
        X_INV_X83 phi2 N$323 Vdd Vss inv_X8
        X_INV_X82 phi1 N$322 Vdd Vss inv_X8
        X_INV_X81 phi1e N$341 Vdd Vss inv_X8
        X_INV_X47 N$317 N$334 Vdd Vss inv_X4
        X_INV_X46 N$334 N$315 Vdd Vss inv_X4
        X_INV_X45 N$315 N$338 Vdd Vss inv_X4
        X_INV_X44 N$314 N$337 Vdd Vss inv_X4
        X_INV_X43 N$337 N$312 Vdd Vss inv_X4
        X_INV_X42 N$312 N$335 Vdd Vss inv_X4
        X_INV_X49 N$344 N$318 Vdd Vss inv_X4
        X_INV_X411 N$320 N$319 Vdd Vss inv_X4
        X_INV_X410 N$319 N$314 Vdd Vss inv_X4
        X_INV_X84 phi2e N$345 Vdd Vss inv_X8
        X_NAND_X41 N$338 N$189 N$337 Vdd Vss nand_X4
        X_INV_X413 N$323 N$344 Vdd Vss inv_X4
        X_INV_X412 N$322 N$320 Vdd Vss inv_X4
        X_INV_X48 N$318 N$317 Vdd Vss inv_X4
        X_INV_X21 N$189 clk Vdd Vss inv_X2
        X_NAND_X45 N$335 clk N$334 Vdd Vss nand_X4
.ends PHASE_GEN

