* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT inv_X8 I VDD VSS O
** N=4 EP=4 IP=0 FDC=4
M0 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=-650 $Y=2100 $D=3
M1 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=70 $Y=2100 $D=3
M2 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-650 $Y=-410 $D=2
M3 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=70 $Y=-410 $D=2
.ENDS
***************************************
.SUBCKT inv_X4 I VDD VSS O
** N=4 EP=4 IP=0 FDC=2
M0 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=1.47e-12 PD=3.98e-06 PS=3.98e-06 $X=580 $Y=730 $D=3
M1 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=4.9e-13 PD=1.98e-06 PS=1.98e-06 $X=580 $Y=-1780 $D=2
.ENDS
***************************************
.SUBCKT nand_X4 A B VDD O VSS
** N=6 EP=5 IP=0 FDC=4
M0 O A VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=3960 $Y=-1720 $D=3
M1 VDD B O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=4680 $Y=-1720 $D=3
M2 6 A O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=3960 $Y=-4230 $D=2
M3 VSS B 6 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=4680 $Y=-4230 $D=2
.ENDS
***************************************
.SUBCKT ICV_1 1 2 3 4 5
** N=5 EP=5 IP=8 FDC=4
X0 3 1 2 4 inv_X4 $T=0 0 0 0 $X=-600 $Y=-2640
X1 4 1 2 5 inv_X4 $T=2540 0 0 0 $X=1940 $Y=-2640
.ENDS
***************************************
.SUBCKT PHASE_GEN clk VDD VSS phi2 phi1 phi2e phi1e
** N=24 EP=7 IP=72 FDC=58
M0 4 clk VDD VDD P_18_MM L=1.8e-07 W=1.5e-06 AD=7.35e-13 AS=7.35e-13 PD=2.48e-06 PS=2.48e-06 $X=9280 $Y=-4770 $D=3
M1 4 clk VSS VSS N_18_MM L=1.8e-07 W=5e-07 AD=2.45e-13 AS=2.45e-13 PD=1.48e-06 PS=1.48e-06 $X=9280 $Y=-240 $D=2
X2 17 VDD VSS phi2 inv_X8 $T=34140 330 1 0 $X=32310 $Y=-5890
X3 18 VDD VSS phi1 inv_X8 $T=34140 2870 0 0 $X=32310 $Y=1600
X4 21 VDD VSS phi2e inv_X8 $T=37400 330 1 0 $X=35570 $Y=-5890
X5 22 VDD VSS phi1e inv_X8 $T=37400 2870 0 0 $X=35570 $Y=1600
X6 11 VDD VSS 15 inv_X4 $T=24410 -1040 1 0 $X=23810 $Y=-5890
X7 12 VDD VSS 16 inv_X4 $T=24410 4240 0 0 $X=23810 $Y=1600
X8 15 VDD VSS 17 inv_X4 $T=30370 -1040 1 0 $X=29770 $Y=-5890
X9 16 VDD VSS 18 inv_X4 $T=30370 4240 0 0 $X=29770 $Y=1600
X10 4 10 VDD 6 VSS nand_X4 $T=7610 -3490 1 0 $X=10230 $Y=-5890
X11 clk 5 VDD 7 VSS nand_X4 $T=7610 6690 0 0 $X=10230 $Y=1600
X12 13 15 VDD 21 VSS nand_X4 $T=23730 -3490 1 0 $X=26350 $Y=-5890
X13 14 16 VDD 22 VSS nand_X4 $T=23730 6690 0 0 $X=26350 $Y=1600
X14 VDD VSS 6 8 5 ICV_1 $T=14250 -1040 1 0 $X=13650 $Y=-5890
X15 VDD VSS 7 9 10 ICV_1 $T=14250 4240 0 0 $X=13650 $Y=1600
X16 VDD VSS 5 13 11 ICV_1 $T=19330 -1040 1 0 $X=18730 $Y=-5890
X17 VDD VSS 10 14 12 ICV_1 $T=19330 4240 0 0 $X=18730 $Y=1600
.ENDS
***************************************
